US06310211B1
5-fluoro-8-hydroxy-7-quinolinesulfonyl chloride (Formula S-2) Refer to Chart S
A solution of 5-fluoro-8-hydroxyquinoline (0.50 g) in 4.0 mL of chlorosulfonic acid is stirred for 3 h at 90° C. and then 13 h at 105° C. The mixture is then cooled to 0° C. and poured onto 50 mL of finely divided −15° C. ice. The bright orange-red precipitate is collected by filtration, washed with four 10-mL portions of 0° C. distilled water and three 2 mL portions of diethyl ether, and dried in a stream of air to give 0.208 g of the title compound as a red-orange powder.

reactant | 5-fluoro-8-hydroxyquinoline | 0.50 g | FC1=C2C=CC=NC2=C(C=C1)O | C9H6FNO
reactant | chlorosulfonic acid | 4.0 mL | ClS(=O)(=O)O | ClHO3S
product | 5-fluoro-8-hydroxy-7-quinolinesulfonyl chloride | 0.208 g | FC1=C2C=CC=NC2=C(C(=C1)S(=O)(=O)Cl)O | C9H5ClFNO3S
